US04910201
Synthesis of 4-chloro-5-(4-chlorobenzyloxy)-2-(4-trifluoromethylphenyl)-3(2H)-pyridazinone (Compound No. 109)
In 50 ml of N,N-dimethylformamide were dissolved 2.0 g (6.5 m mol) of 4,5-dichloro-2-(4-trifluoromethylphenyl)-3(2H)-pyridazinone and 0.92 g (6.5 m mol) of p-chlorobenzyl alcohol, and thereto was added 0.51 g of powdery potassium hydroxide. Then, the procedures in Synthesis Example 2 were repeated to give 1.94 g of the intended compound.

reactant | 4,5-dichloro-2-(4-trifluoromethylphenyl)-3(2H)-pyridazinone | 2.0 g | ClC=1C(N(N=CC1Cl)C1=CC=C(C=C1)C(F)(F)F)=O | C11H5Cl2F3N2O
reactant | p-chlorobenzyl alcohol | 0.92 g | ClC1=CC=C(CO)C=C1 | C7H7ClO
reactant | potassium hydroxide | 0.51 g | [OH-].[K+]
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-chloro-5-(4-chlorobenzyloxy)-2-(4-trifluoromethylphenyl)-3(2H)-pyridazinone | 1.94 g | ClC=1C(N(N=CC1OCC1=CC=C(C=C1)Cl)C1=CC=C(C=C1)C(F)(F)F)=O | C18H11Cl2F3N2O2
